US07763612B2
A solution of 2-[(6-(2-chloro-4-[(2-furanylmethyl)amino]-5-(2,2,2-trichloroethoxycarbonyl)phenylsulfonamidomethoxy)(6-oxo)hexanoyloxymethyl)(1,1-dimethylethyl)amino]-1-(3-chlorophenyl)-1-propanone (0.060 mole) in acetic acid (100 mL) is cooled in an ice water bath. Zinc dust (0.12 mole) is added in several portions with stirring, and the reaction is stirred for 2.5 hours at 0° C. The mixture is filtered to remove zinc salts, and the volatiles are removed by spin evaporation in vacuo. The residue is dissolved in cold water, and the solution is washed with diethyl ether. The aqueous solution is cooled in an ice bath and acidified by dropwise addition of 1.0 N hydrochloric acid solution (60 mL). The resulting solid may be collected and recrystallized to give 2-[(6-(5-carboxy-2-chloro-4-[(2-furanylmethyl)amino]phenylsulfonamidomethoxy)(6-oxo)hexanoyloxymethyl)(1,1-dimethylethyl)amino]-1-(3-chlorophenyl)-1-propanone (1220). See Greene et al., Protective Groups in Organic Synthesis, Second Edition, (1991) p. 240.

reactant | 2-[(6-(2-chloro-4-[(2-furanylmethyl)amino]-5-(2,2,2-trichloroethoxycarbonyl)phenylsulfonamidomethoxy)(6-oxo)hexanoyloxymethyl)(1,1-dimethylethyl)amino]-1-(3-chlorophenyl)-1-propanone | 0.060 mole | ClC1=C(C=C(C(=C1)NCC=1OC=CC1)C(=O)OCC(Cl)(Cl)Cl)S(=O)(=O)NCOC(CCCCC(=O)OCN(C(C(=O)C1=CC(=CC=C1)Cl)C)C(C)(C)C)=O | C35H40Cl5N3O10S
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | 0.12 mole | [Zn] | Zn
product | 2-[(6-(5-carboxy-2-chloro-4-[(2-furanylmethyl)amino]phenylsulfonamidomethoxy)(6-oxo)hexanoyloxymethyl)(1,1-dimethylethyl)amino]-1-(3-chlorophenyl)-1-propanone | C(=O)(O)C=1C(=CC(=C(C1)S(=O)(=O)NCOC(CCCCC(=O)OCN(C(C(=O)C1=CC(=CC=C1)Cl)C)C(C)(C)C)=O)Cl)NCC=1OC=CC1 | C33H39Cl2N3O10S
